US06797823B1
N-Butyl-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-3-methylphenyl}urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-3-methyl-aniline (50 mg) was dissolved in chloroform (3 ml) and triethylamine (0.2 ml), and a solution of triphosgene (48 mg) in chloroform was then added to the solution. The mixture was stirred at room temperature for 30 min. Next, butylamine (24 μl) was added to the reaction solution, and the mixture was further stirred at room temperature overnight. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol to give 31 mg (yield 47%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-3-methyl-aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=C(C=C(N)C=C1)C | C17H17N3O3
reactant | triphosgene | 48 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | butylamine | 24 μl | C(CCC)N | C4H11N
reactant | Methanol | CO | CH4O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | N-Butyl-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-3-methylphenyl}urea | 31 mg, yield 47% | C(CCC)NC(=O)NC1=CC(=C(C=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)C | C22H26N4O4
